US04576949
5,6,7,8-Tetrahydro-2-methyl-8-(phenylmethylene)-3-quinolinecarboxylic acid ethyl ester
A solution of 5,6,7,8-tetrahydro-2-methyl-3-quinolinecarboxylic acid ethyl ester (4.4 g) and benzaldehyde (2.54 g) in acetic anhydride (13 ml) is heated at reflux temperature for 5 hours. The residue from evaporation is dissolved in aqueous tetrahydrofuran, diluted with water, and the precipitate is extracted into ethyl acetate. The extract is washed with 5 percent sodium bicarbonate solution, dried and evaporated. The residue deposited pure 5,6,7,8-tetrahydro-2-methyl-8-(phenylmethylene)-3-quinolinecarboxylic acid ethyl ester (3.0 g, m.p. 125° C.-126° C.) from ethanol solution.

reactant | 5,6,7,8-tetrahydro-2-methyl-3-quinolinecarboxylic acid ethyl ester | 4.4 g | C(C)OC(=O)C=1C(=NC=2CCCCC2C1)C | C13H17NO2
reactant | benzaldehyde | 2.54 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | acetic anhydride | 13 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5,6,7,8-Tetrahydro-2-methyl-8-(phenylmethylene)-3-quinolinecarboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC=2C(CCCC2C1)=CC1=CC=CC=C1)C | C20H21NO2
